US09315462B2
Compound 54: 4-(8-fluoro-6-hydroxyquinolin-2-yl)benzoic acid
A mixture of methyl 4-(8-fluoro-6-hydroxyquinolin-2-yl)benzoate and methyl 4-(6-acetoxy-8-fluoroquinolin-2-yl)benzoate (120 mg) was hydrolyzed with 2N NaOH (4 mL) in MeOH (4 mL). The desired product-4-(8-fluoro-6-hydroxyquinolin-2-yl)benzoic acid (65 mg) was collected by filtration after acidification with 12N HCl. 1H NMR (DMSO-d6 300 MHz TMS): δ 8.36-8.33 (3H, m), 8.18 (1H, d, J=9 Hz), 8.09 (2H, d, J=9 Hz), 7.24 (1H, dd, J=12 and 3 Hz), 7.09 (1H, d, J=3 Hz) ppm, MS (ESI): m/z 284, [M+H+].

reactant | methyl 4-(8-fluoro-6-hydroxyquinolin-2-yl)benzoate | FC=1C=C(C=C2C=CC(=NC12)C1=CC=C(C(=O)OC)C=C1)O | C17H12FNO3
reactant | methyl 4-(6-acetoxy-8-fluoroquinolin-2-yl)benzoate | 120 mg | C(C)(=O)OC=1C=C2C=CC(=NC2=C(C1)F)C1=CC=C(C(=O)OC)C=C1 | C19H14FNO4
reactant | NaOH | 2N, 4 mL | [OH-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
product | 4-(8-fluoro-6-hydroxyquinolin-2-yl)benzoic acid | FC=1C=C(C=C2C=CC(=NC12)C1=CC=C(C(=O)O)C=C1)O | C16H10FNO3
